US08865698B2
(1S,4S)—N-(5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-2-oxa-5-azabicyclo[2.2.1]heptane-5-carboxamide
To a DCM (1.0 mL) solution of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (Preparation B; 50 mg, 0.16 mmol) was added CDI (51 mg, 0.32 mmol) at ambient temperature in one portion. After stirring 90 minutes, (1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptane hydrochloride (43 mg, 0.32 mmol) was added in one portion, followed by DIEA (0.083 mL, 0.48 mmol). The reaction was stirred for 5 minutes before it was concentrated and directly purified by reverse-phase column chromatography, eluting with 0 to 60% acetonitrile/water to yield the final product as a pale-yellowish powder (60 mg, 86% yield). MS (apci) m/z=441.2 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.16 mmol, 50 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H15F2N5
reactant | CDI | 0.32 mmol, 51 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptane hydrochloride | 0.32 mmol, 43 mg | Cl.[C@@H]12OC[C@@H](NC1)C2
reactant | DIEA | 0.48 mmol, 0.083 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | (1S,4S)—N-(5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-2-oxa-5-azabicyclo[2.2.1]heptane-5-carboxamide | 60 mg, 86% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2[C@@H]1CO[C@H](C2)C1 | C22H22F2N6O2
